Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Keflex / 
Percocet / Codeine / Seasonal / Pet Dander / house dust / 
Levaquin
 
Attending: ___
 
Chief Complaint:
Chest Pain, palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with H/O hypothyroidism, asthma, osteoporosis, 
hyperlipidemia, and anxiety who presents with palpitations and 
chest pressure.

Patient initially presented to ___ Urgent Care with 
chest pressure for 1 day and palpitations. This was associated 
with nausea, diarrhea, and flushing. The sensation started 
overnight, resolved after a night's sleep, but recurred while at 
work during the day. Chest pressure described as heaviness 
without radiation, not associated with dyspnea. She denied lower 
extremity edema. Patient was given ASA 324 mg and referred to 
___ ED for further evaluation.

In the ED, initial VS were: R 98.1 HR 100 BP ___ RR 18 SaO2 
100% on RA. Exam notable for chronic left eye drift with 
incomplete abduction. Labs showed: troponin-T <0.01 x2, D-dimer 
184, lactate 1.6. Patient received: nitroglycerin 0.3 mg SL, KCl 
20 mEq, NS 500 ml IV. Patient initially admitted to ED 
observation, then developed recurrent chest pain at 1:30AM, 
improved with SL nitroglycerin x1 with improvement in ST 
depression on ECG. She was subsequently admitted to ___ for 
further management. She was given Mg SO4 4 gm IV 
prophylactically for incidentally noted long QTc on ECG. 
Transfer VS were: HR 113 BP 127/86 RR 16 SaO2 99% on RA.

On arrival to the cardiology ward, patient reported improvement 
in chest pain from ___ in the ED to ___. She denied associated 
dyspnea. She reported feeling generally unwell for the past few 
months related to a concussion and has noticed increased fatigue 
over the past week. She denied palpitations currently.
 
Past Medical History:
- Allergic Rhinitis
- Asthma
- Hypothyroidism
- Osteoporosis 
- Anxiety 
- Hyperlipidemia
- H/O tremor (improved) 
- H/O Zoster complicated by corneal defects, cataracts
 
Social History:
___
Family History:
- Father with CAD, bipolar disorder, gout
- Aunt with breast cancer
- Aunt with ovarian cancer, lung cancer
- Daughter with neurofibromatosis
 
Physical Exam:
On admission
GENERAL: Middle aged white woman in NAD
VS: T 98.1 BP 145/84 HR 81 RR 17 SaO2 99% on RA
HEENT: Mucous membranes moist
NECK: no JVD
HEART: RRR, S1/S2; no murmurs, gallops, or rubs
LUNGS: CTAB--no wheezes, rales, rhonchi
ABDOMEN: soft, non-tender, not distended, normal active bowel 
sounds
EXTREMITIES: no edema, warm and well perfused
PULSES: 2+ DP pulses
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: no rashes

At discharge
GENERAL: in NAD
___ 0730 Temp: 98.6 PO BP: 100/66 HR: 85 RR: 20 O2 sat: 98% 
O2 delivery: RA 
HEENT: Mucous membranes moist
NECK: no JVD
HEART: RRR, S1/S2; no murmurs, gallops, or rubs
LUNGS: CTAB--no wheezes, rales, rhonchi
ABDOMEN: soft, non-tender, not distended, normal active bowel 
sounds
EXTREMITIES: no edema, warm and well perfused
PULSES: 2+ DP pulses 
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: no rashes
 
Pertinent Results:
___ 07:15PM BLOOD WBC-7.8 RBC-4.57 Hgb-13.3 Hct-39.2 MCV-86 
MCH-29.1 MCHC-33.9 RDW-12.8 RDWSD-39.4 Plt ___
___ 07:15PM BLOOD Neuts-65.4 ___ Monos-8.0 Eos-3.1 
Baso-0.9 Im ___ AbsNeut-5.13 AbsLymp-1.74 AbsMono-0.63 
AbsEos-0.24 AbsBaso-0.07
___ 07:15PM BLOOD ___ PTT-31.4 ___

___ 07:15PM BLOOD Glucose-116* UreaN-16 Creat-0.7 Na-139 
K-3.8 Cl-99 HCO3-22 AnGap-18
___ 07:15PM BLOOD Calcium-10.1 Phos-2.0* Mg-2.1

___ 07:15PM BLOOD cTropnT-<0.01
___ 01:08AM BLOOD cTropnT-<0.01

___ 01:07AM BLOOD D-Dimer-184
___ 01:07AM BLOOD TSH-1.4
___ 01:11AM BLOOD Lactate-1.6

CXR ___
No pneumothorax or pleural effusion. The heart size is within 
normal limits. The lungs are clear.
IMPRESSION: No acute cardiopulmonary abnormality.

Exercise echocardiographic stress test ___
This ___ year old woman was referred to the lab for evaluation of 
chest discomfort. She exercised for 10.5 minutes on modified 
___ protocol and stopped for fatigue. The peak estimated MET 
capacity is 8.7, which represents a good exercise tolerance for 
her age. At 8.5 minutes during exercise the patient reported an 
intermittent non-progressive ___ central chest discomfort, 
which resolved by 3 minutes post-exercise. No other chest, arm, 
neck or back discomfort reported. No significant ST segment 
changes noticed. Rhythm was sinus with no ectopy. Appropriate 
hemodynamic response to exercise and recovery.
IMPRESSION: Atypical/non-anginal symptoms in the absence of 
ischemic EKG changes to the achieved workload. Good functional 
capacity.
IMAGIG: Resting images were acquired at a heart rate of 103 bpm 
and a blood pressure of 128/86 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated no aortic stenosis, aortic 
regurgitation or significant mitral regurgitation or resting 
LVOT gradient.
  Echo images were acquired within 83 seconds after peak stress 
at heart rates of 131-113 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
augmentation of right ventricular free wall motion. 
IMPRESSION: Good functional exercise capacity for age and 
gender. No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. Normal hemodynamic response to 
exercise. 

DISCHARGE LABS
___ 06:15AM BLOOD WBC-9.0 RBC-4.33 Hgb-12.6 Hct-37.4 MCV-86 
MCH-29.1 MCHC-33.7 RDW-13.0 RDWSD-40.8 Plt ___
___ 06:15AM BLOOD Glucose-92 UreaN-12 Creat-0.6 Na-142 
K-5.3 Cl-104 HCO3-22 AnGap-16
___ 06:15AM BLOOD Calcium-9.0 Phos-3.6 Mg-3.3*
 
Brief Hospital Course:
___ yo woman with H/O hypothyroidism, asthma, osteoporosis, 
hyperlipidemia and anxiety who presents with palpitations and 
chest pressure. Initial concern for biomarker negative unstable 
angina given EKG changes but stress echocardiogram without 
inducible wall motion abnormalities or other objective evidence 
of ischemia.

# Cheat pain: With chest pain over the past 2 days associated 
with shortness of breath, palpitations, wheezing, nausea, 
flushing, and diarrhea, constellation seemingly associated with 
a serotonin surge (toxin/GI related response to dinner?). She 
was reported to have ST elevation in aVR and ST depressions in 
V4-6 in the evening, which improved after patient given SL 
nitroglycerin. Troponin-T negative x2. Concerning for ischemic 
disease although has not had exertional symptoms otherwise. 
Stress echocardiogram to ___ METs with no inducible wall motion 
abnormalities or ischemic ECG changes and chest discomfort felt 
atypical for ischemia. She was continued on aspirin 81 mg daily, 
atorvastatin 40 mg qhs, and metoprolol succinate 25 mg daily on 
discharge for empiric CAD therapy given dynamic ECG changes 
reported.

# Palpitations: Unclear etiology. Mild sinus tachycardia during 
ED stay, no other arrhythmia noted. TSH WNL. No anemia. There 
may be a component of anxiety. Also noted symptoms consistent 
with possible serotonin surge vs. vagal response after eating 
shrimp including palpitations, flushing, nausea, diarrhea. No 
events on telemetry but did have prolonged QTc on EKG (511). 
Discharged with ___ of ___ monitor to monitor for events.

# Hypothyroidism on repletion: TSH within normal limits. 
Continued home levothyroxine.

# Asthma: Intermittent symptoms, reports only in the setting of 
URI. Held home mometasone-formoterol BID (takes PRN) and 
continued albuterol inhaler PRN.

# Seasonal allergies: Held home azelastine nasal spray and home 
olopatadine nasal spray.

# Osteoporosis: Receives denosumab q6 months. Continued home 
vitamin D. Held home calcium supplements.

# H/O fall: Fell in ___, mechanical in nature, without loss 
of consciousness. She had been referred to concussion clinic, 
diagnosed with head injury rather than brain injury or 
concussion given constellation of symptoms and absence of 
post-traumatic amnesia. Cognitive issues reported felt to be 
related to pain and lack of sleep at the time. Dizziness thought 
to be due to BPPV and convergence insufficiency, referred to 
___ rehab. She reports functional decline and persistent 
fatigue since the fall, but was able to participate in stress 
echocardiogram with no issues this admission.

# Hyperlipidemia: Last LDL 140s, not on therapy. Started on 
atorvastatin 40 mg qhs given EKG changes and chest pressure 
during this admission.

TRANSITIONAL ISSUES
DISCHARGE WEIGHT: 66.5 kg
DISCHARGE CR: 0.6

NEW MEDICATIONS: 
Atorvastatin 40 mg qhs
Metoprolol succinate 25 mg qhs
Aspirin 81 mg daily

[] Follow-up repeat EKG for QTc (last 511)
[] Follow-up cardiology for ___ of Hearts monitoring given 
palpitations, and chest pressure with dynamic EKG changes on CAD 
therapy (negative stress echo) 
[] Follow-up BPs and HRs on metoprolol
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
2. Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP BID 
3. Denosumab (Prolia) Dose is Unknown  SC Frequency is Unknown 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. azelastine 137 mcg (0.1 %) nasal BID 
6. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN 
itchyness 
7. Dulera (mometasone-formoterol) 200-5 mcg/actuation inhalation 
BID:PRN 
8. olopatadine 0.6 % nasal BID 
9. Multivitamins 1 TAB PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Calcium Carbonate 500 mg PO Frequency is Unknown 
12. Ranitidine 150 mg PO BID:PRN reflux 
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*1 
4.  Calcium Carbonate 500 mg PO DAILY  
5.  Denosumab (Prolia) 60 mg SC Q6 MONTHS  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea  
7.  azelastine 137 mcg (0.1 %) nasal BID  
8.  Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP BID  
9.  Dulera (mometasone-formoterol) 200-5 mcg/actuation 
inhalation BID:PRN  
10.  Levothyroxine Sodium 88 mcg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  olopatadine 0.6 % nasal BID  
13.  Ranitidine 150 mg PO BID:PRN reflux  
14.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN 
itchyness  
15.  Vitamin D 1000 UNIT PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Chest pain without objective evidence of myonecrosis or 
inducible ischemia, but reportedly dynamic electrocardiographic 
abnormalities
-Palpitations
-Hypothyroidism 
-Asthma
-Seasonal allergies/allergic rhinitis
-Osteoporosis 
-Gastroesophageal reflux disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having chest pain and 
palpitations  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were found to have changes on your EKG concerning for 
blockages of your heart vessels
- You had a stress echocardiogram that was not concerning for 
ischemia of your heart
- You were started on heart healthy medications given the EKG 
changes including aspirin, metoprolol, and atorvastatin (also 
for your history of hyperlipidemia)

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please take your medications as directed
- Please follow up with your primary care and cardiology doctors 

- Please make sure you follow directions for holter monitor, and 
follow up with your cardiology for interpretation

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___